US07091227B2
N-Ethyl-N′-[7-(3-pyridyl)[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]urea
A suspension of N-ethyl-N′-[7-(3-pyridyl)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d]-[1,3]thiazol-2-yl]urea (10 mg, 0.028 mmol) and DDQ (13 mg, 0.056 mmol) in toluene (1 mL) was heated to about 35° C. for about 3 hrs. The reaction mixture was concentrated in vacuo and purified by preparative HPLC. 3 mg (30%) pure product was isolated. LC/MS 356 (MH+); RP-HPLC 14.25 min.

reactant | N-ethyl-N′-[7-(3-pyridyl)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d]-[1,3]thiazol-2-yl]urea | 0.028 mmol, 10 mg | C(C)NC(=O)NC=1SC2=C(N1)CCC1=C2N=C(S1)C=1C=NC=CC1 | C16H15N5OS2
reactant | DDQ | 0.056 mmol, 13 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N′-[7-(3-pyridyl)[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]urea | 3 mg, 30% | C(C)NC(=O)NC=1SC2=C(N1)C=CC1=C2N=C(S1)C=1C=NC=CC1 | C16H13N5OS2
